US09145411B2
To a 50 mL sealed tube, methyl 5-(2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-7-yl)furan-2-carboxylate (0.35 g, 0.0009 mol), (2-(tert-butoxycarbonyl)amino)pyrimidin-5-yl)boronic acid (0.33 g, 0.0014 mol), potassium phosphate (0.39 g, 0.0018 mol), DMF (15 mL) and water (5 mL) were added. The reaction mixture was degassed with N2 for 5-10 minutes. To the same reaction mixture, Pd(PPh3)4 (0.053 g, 0.000046 mol) was added and the mixture was degassed again with N2 for 5-10 minutes. The reaction mixture was stirred at 95° C. for 1 hour. The reaction mixture was cooled and mixed with water. A precipitate formed which was collected by filtration. The filtered solid was purified by flash column chromatography (3% methanol in chloroform) to provide methyl 5-(2-(2-((tert-butoxycarbonyl)amino)pyrimidin-5-yl)-4-morpholinopyrido[3,2-d]pyrimidin-7-yl)furan-2-carboxylate (0.3 g). LC-MS (ESI): Calculated mass: 533.0; Observed mass: 434.1 [M-Boc+H]+ (RT=1.60 min).

reactant | methyl 5-(2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-7-yl)furan-2-carboxylate | 0.0009 mol, 0.35 g | ClC=1N=C(C2=C(N1)C=C(C=N2)C2=CC=C(O2)C(=O)OC)N2CCOCC2 | C17H15ClN4O4
reactant | boronic acid | 0.0014 mol, 0.33 g | B(O)O | BH3O2
reactant | potassium phosphate | 0.0018 mol, 0.39 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
reactant | water | 5 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.000046 mol, 0.053 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 5-(2-(2-((tert-butoxycarbonyl)amino)pyrimidin-5-yl)-4-morpholinopyrido[3,2-d]pyrimidin-7-yl)furan-2-carboxylate | 0.3 g | C(C)(C)(C)OC(=O)NC1=NC=C(C=N1)C=1N=C(C2=C(N1)C=C(C=N2)C2=CC=C(O2)C(=O)OC)N2CCOCC2 | C26H27N7O6
